US04078933
(Sodium N-Ethyl-N'-(4-sulfophenyl)barbiturate)
A mixture of 26.6 g of N-ethyl-N'-(4-sulfophenyl)urea sodium salt, 13.5 g of malonic acid and 150 ml of glacial acetic acid was heated and dissolved at 60° to 70° C. Acetic anhydride (200 ml) was added dropwise to the solution with stirring. After addition of the acetic anhydride, the temperature of the reaction solution increased to 95° C. The reaction solution was stirred for 6 hours and then condensed under reduced pressure so as to precipitate crystals. 700 ml of ethanol was added to the condensed solution and the crystals were completely precipitated. The precipitated crystals were collected by filtration, washed thoroughly with ethanol and dried by heating under reduced pressure to obtain 31.2 g of crystals. The crystals obtained were recrystallized using a 90% methanol aqueous solution and, thereby, 23.5 g of white crystals was obtained. Melting point: 290° C.

reactant | N-ethyl-N'-(4-sulfophenyl)urea sodium salt | 26.6 g | [Na].C(C)NC(=O)NC1=CC=C(C=C1)S(=O)(=O)O
reactant | malonic acid | 13.5 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | Acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | Sodium N-Ethyl-N'-(4-sulfophenyl)barbiturate | 31.2 g | C(C)N1C(=O)N(C(=O)CC1=O)C1=CC=C(C=C1)S(=O)(=O)O.[Na] | InChI=1S/C12H12N2O6S.Na/c1-2-13-10(15)7-11(16)14(12(13)17)8-3-5-9(6-4-8)21(18,19)20;/h3-6H,2,7H2,1H3,(H,18,19,20);
